US07772234B2
Step I: Preparation of 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid.
To a solution of 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid methyl ester (54 mg, 0.14 mmol) in THF-water (3 mL/l mL) was added 1 N aqueous LiOH (0.30 mL, 0.30 mmol) at room temperature. After 30 minutes, the reaction mixture was adjusted to pH 6-7 with 1 N aqueous HCl, diluted with water, and extracted with EtOAc-THF. The organic layer was washed with water, dried over MgSO4, filtered, and concentrated in vacuo to give 31 mg (60%) of the crude product (31 mg, 60%), which was used directly without further purification.

reactant | 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid methyl ester | 0.14 mmol, 54 mg | COC(=O)C=1C=C2C(=CN=NC2=C(C1NC1=C(C=C(C=C1)Cl)Cl)F)C | C17H12Cl2FN3O2
reactant | LiOH | 0.30 mmol, 1 N, 0.30 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF water | C1CCOC1.O
solvent | water | O | H2O
product | 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid | 31 mg | ClC1=C(C=CC(=C1)Cl)NC1=C(C=C2C(=CN=NC2=C1F)C)C(=O)O | C16H10Cl2FN3O2
